US07585886B2
A 9.27 g portion of tert-butyl [(1R)-1-(1-naphthyl)ethyl]{[(3R,4S)-4-phenyl-1-(trifluoroacetyl)pyrrolidin-3-yl]methyl}carbamate was dissolved in 105 ml of THF-methanol (2:1), mixed with 35 ml of 1 M sodium hydroxide aqueous solution and stirred at room temperature for 1Hour. The reaction solution was concentrated under a reduced pressure, the residue was mixed with water and extracted with chloroform, and the organic layer was dried with anhydrous sodium sulfate. This was concentrated under a reduced pressure, and the thus obtained residue was purified by a silica gel column chromatography (chloroform-methanol-aqueous ammonia) to obtain 6.97 g of tert-butyl [(1R)-1-(1-naphthyl)ethyl]{[(3R,4S)-4-phenylpyrrolidin-3-yl]methyl}carbamate as a colorless oily substance. FP: 431, NMR 1 (80° C.): 1.42 (9H, s), 1.45-1.55 (1H, m), 1.48 (3H, d, J=6.8 Hz), 2.23-2.30 (1H, m), 2.30-2.38 (1H, m), 2.48-2.57 (2H, m), 2.82-2.88 (1H, m), 2.87-2.92 (1H, m), 2.96-3.03 (1H, m), 5.95 (1H, q, J=6.8 Hz), 6.70-6.76 (2H, m), 7.04-7.17 (3H, m), 7.37 (1H, t, J=7.6 Hz), 7.39 (1H, m), 7.47-7.54 (2H, m), 7.81 (1H, m), 7.88-7.94 (1H, m), 8.02-8.09 (1H, m).

reactant | tert-butyl [(1R)-1-(1-naphthyl)ethyl]{[(3R,4S)-4-phenyl-1-(trifluoroacetyl)pyrrolidin-3-yl]methyl}carbamate | C1(=CC=CC2=CC=CC=C12)[C@@H](C)N(C(OC(C)(C)C)=O)C[C@H]1CN(C[C@@H]1C1=CC=CC=C1)C(C(F)(F)F)=O | C30H33F3N2O3
reactant | sodium hydroxide | 1 M, 35 ml | [OH-].[Na+]
solvent | THF methanol | 105 ml | C1CCOC1.CO
product | tert-butyl [(1R)-1-(1-naphthyl)ethyl]{[(3R,4S)-4-phenylpyrrolidin-3-yl]methyl}carbamate | 6.97 g | C1(=CC=CC2=CC=CC=C12)[C@@H](C)N(C(OC(C)(C)C)=O)C[C@H]1CNC[C@@H]1C1=CC=CC=C1 | C28H34N2O2
